US07767674B2
4-[3-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic Acid
To a suspension of 4-[3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic acid ethyl ester (0.24 g, 0.71 mmol) in ethanol (4 mL) is added 1 N aq. NaOH solution (2 mL) and the mixture is heated at 80° C. for 2 hours. Then, 1 N HCl is added until pH 6 and the mixture is diluted with ethyl acetate. The organic phase is washed once with aqueous sodium chloride solution and dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 0.19 g (0.59 mmol), 83% as white solid. ES+(m/z) 317 [M+H].

reactant | 4-[3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic acid ethyl ester | 0.71 mmol, 0.24 g | C(C)OC(C1=CC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C)=O | C18H24N4O3
reactant | NaOH | 1 N, 2 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-ureido]benzoic Acid | C(C)(C)(C)C=1C=C(N(N1)C)NC(NC1=CC=C(C(=O)O)C=C1)=O | C16H20N4O3
